US08440689B2
A. (R)-2-(4-(5-Cyanothiophen-2-yl)-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide
A solution of (R)-2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide (114 mg, 0.245 mmol), 5-cyanothiophen-2-ylboronic acid (113 mg, 0.736 mmol), tris(dibenzylideneacetone)di-palladium(0) (13.47 mg, 0.015 mmol), and 2-(dicyclohexylphosphino)biphenyl (5.16 mg, 0.015 mmol) in dioxane (2 mL) and DMF (0.5 mL) was heated to 160° C. under microwave irradiation for 45 min. UPLC showed 50% conversion. The reaction mixture was subsequently heated at 160° C. under microwave irradiation for 45 min. Additional 5-cyanothiophen-2-ylboronic acid (113 mg, 0.736 mmol) was added and the reaction mixture was heated at 160° C. under microwave irradiation for 60 min. After removal of the solvent, the resulting crude material was reconstituted in MeOH/DMF (6.0 mL) and purified via preparative HPLC eluting with water (0.05% TFA) and ACN (40-80% gradient, 0.035% TFA). The collected fractions were stripped to dryness via rotary evaporation to yield the title compound. [M+H] calc'd for C27H28FN5O4S, 538. found, 538.

reactant | (R)-2-(4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide | 0.245 mmol, 114 mg | ClC1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)N[C@@H](C(=O)N)CC(C)C | C22H26ClFN4O4
reactant | 5-cyanothiophen-2-ylboronic acid | 0.736 mmol, 113 mg | C(#N)C1=CC=C(S1)B(O)O | C5H4BNO2S
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.015 mmol, 5.16 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | 5-cyanothiophen-2-ylboronic acid | 0.736 mmol, 113 mg | C(#N)C1=CC=C(S1)B(O)O | C5H4BNO2S
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)di-palladium(0) | 0.015 mmol, 13.47 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-2-(4-(5-Cyanothiophen-2-yl)-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide | C(#N)C1=CC=C(S1)C1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)N[C@@H](C(=O)N)CC(C)C | C27H28FN5O4S
